US05834454
A mixture of ethyl 1-(2-tert-butoxycarbonylaminoethyl)-4-methyl-1H-indole-2-carboxylate (27.2 g, 78.5 mmol), trifluoroacetic acid (75 ml) and dichloromethane (250 ml) was stirred at 0°C. for 3 hours, slowly poured into cold aqueous ammonia, and then extracted twice with ethyl acetate. The extract solution was washed with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, after which the residue was dissolved in pyridine (150 ml) and the resulting solution was cooled to 5° C. p-Toluenesulfonyl chloride (22.4 g, 118 mmol) was added to the cooled solution in small portions and the resulting mixture was stirred at 5° C. for 3 hours and then allowed to stand overnight at room temperature. The reaction mixture was poured into ice water and extracted twice with ethyl acetate, and the extract solution was washed successively with 1N hydrochloric acid, a saturated aqueous sodium hydrogencarbonate solution and a 5% aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The resulting residue was purified by a silica gel column chromatography (eluent:ethyl acetate/n-hexane= 1/9) to obtain 27.6 g of ethyl 1-[2-(4-methylphenylsulfonyl) aminoethyl]-4-methyl-1H-indole-2-carboxylate

reactant | ethyl 1-(2-tert-butoxycarbonylaminoethyl)-4-methyl-1H-indole-2-carboxylate | 78.5 mmol, 27.2 g | C(C)(C)(C)OC(=O)NCCN1C(=CC2=C(C=CC=C12)C)C(=O)OCC | C19H26N2O4
reactant | trifluoroacetic acid | 75 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | N | H3N
reactant | p-Toluenesulfonyl chloride | 118 mmol, 22.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | ethyl 1-[2-(4-methylphenylsulfonyl) aminoethyl]-4-methyl-1H-indole-2-carboxylate | 27.6 g | CC1=CC=C(C=C1)S(=O)(=O)NCCN1C(=CC2=C(C=CC=C12)C)C(=O)OCC | C21H24N2O4S
